US04008066
83 g of bromoacetic acid methyl amide and 169 ml of 2,6-dimethyl aniline are stirred for 10 hours at 140° C bath temperature. The reaction mixture is left to stand overnight at room temperature. Next morning the contents of the flask are crystallised right through. The contents are filtered off and the precipitate is washed with benzene. The precipitate is subsequently dissolved in a small amount of water, the solution is brought to a pH of 10 to 11 with 30% sodium hydroxide solution and extracted with ether. The ethereal extract is dried over sodium sulphate, the ether distilled off in vacuo, and the residue is distilled in a high vacuum to yield 55 g of 2,6-dimethylanilinoacetic acid methyl amide (b.p. 152°-154° C/0.1 Torr). After recrystallisation from diisopropyl ether the product melts at 71°-73° C. 2,6-dimethylanilinoacetic acid dimethyl amide was manufactured in analogous manner: b.p. 132° C/0.3 Torr; m.p. 52°-54° C (recyrstallisation from diisopropyl ether/petroleum ether).

reactant | bromoacetic acid methyl amide | 83 g | CNC(CBr)=O | C3H6BrNO
reactant | 2,6-dimethyl aniline | 169 ml | CC1=C(N)C(=CC=C1)C | C8H11N
product | 2,6-dimethylanilinoacetic acid methyl amide | 55 g | CNC(CNC1=C(C=CC=C1C)C)=O | C11H16N2O
